US05985853
9 ml of boron tribromide is added dropwise to a solution containing 20 g of 5-bromo 2-chloro anisole in 200 ml of methylene chloride. Agitation is carried out for 10 minutes at 0° C., then for 24 hours at 20° C. and the reaction medium is poured into a water and ice mixture. The resultant suspension is agitated for 30 minutes, extraction is carried out with methylene chloride, followed by saturation with sodium chloride and extraction twice with methylene chloride. The organic phases are collected, dried over magnesium sulphate, evaporated under reduced pressure and 18.5 g of 5-chloro 2-bromophenol is obtained. M.p.=56° C.

reactant | boron tribromide | 9 ml | B(Br)(Br)Br | BBr3
reactant | 5-bromo 2-chloro anisole | 20 g | BrC=1C=CC(=C(C1)OC)Cl | C7H6BrClO
reactant | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro 2-bromophenol | 18.5 g | ClC=1C=CC(=C(C1)O)Br | C6H4BrClO
